US05087775
280 g (1.39 mol) of 2,3,3,4,4-pentafluorocyclobutenyl isopropyl ether are hydrogenated in 1200 ml of ether as described in Example 5 and the mixture is worked up. 2,2,3,3-Tetrafluorocyclobutyl isopropyl ether is obtained in this way in a yield of 66% of theory.

reactant | 2,3,3,4,4-pentafluorocyclobutenyl isopropyl ether | 1.39 mol, 280 g | C(C)(C)OC1=C(C(C1(F)F)(F)F)F | C7H7F5O
solvent | ether | 1200 ml | CCOCC | C4H10O
product | 2,2,3,3-Tetrafluorocyclobutyl isopropyl ether | yield of 66% | C(C)(C)OC1C(C(C1)(F)F)(F)F | C7H10F4O
